US04814344
2-Methyl-3-(2-methyl-1H-imidazol-1-yl)-1-(1-methyl-1H-indol-3-yl)-1-propanone
n-Butyllithium (1.6M in hexane; 10 ml) was added dropwise to a stirred solution of diisopropylamine (1.6 ml) in dry THF (40 ml) at 0° under nitrogen. After 40 min at 0° the reaction was cooled to -70° and treated dropwise with a solution of 3-(2-methyl-1H-imidazol-1-yl)-1-(1-methyl-1H-indol-3-yl)-1-propanone (2.7 g) in dry THF (150 ml) over 45 min. After a further 30 min a solution of iodomethane (0.7 ml) in hexamethylphosphoramide (1.5 ml) was added, and the suspension was allowed to warm to room temperature over 2.5 h. The suspension was partitioned between sodium carbonate (2N; 150 ml) and ethyl acetate (2×100 ml). The combined organic extracts were dried and evaporated in vacuo to give an oil which was purified by column chromatography eluting with System B to give the free base of the title compound as an oil (2.05 g). A sample (0.5 g) of the free base was dissolved in absolute ethanol (5 ml) acidified with ethanolic hydrogen chloride, and the salt was precipitated by diluting with excess dry ether (ca. 200 ml). The salt was filtered off, and dried in vacuo to give the title compound (0.25 g), m.p. 205°-207°.

reactant | n-Butyllithium | 1.6M, 10 ml | C(CCC)[Li]
reactant | diisopropylamine | 1.6 ml | C(C)(C)NC(C)C | C6H15N
reactant | 3-(2-methyl-1H-imidazol-1-yl)-1-(1-methyl-1H-indol-3-yl)-1-propanone | 2.7 g | CC=1N(C=CN1)CCC(=O)C1=CN(C2=CC=CC=C12)C | C16H17N3O
reactant | iodomethane | 0.7 ml | IC | CH3I
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | hexamethylphosphoramide | 1.5 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2-Methyl-3-(2-methyl-1H-imidazol-1-yl)-1-(1-methyl-1H-indol-3-yl)-1-propanone | 2.05 g | CC(C(=O)C1=CN(C2=CC=CC=C12)C)CN1C(=NC=C1)C | C17H19N3O
